2183-03-12 06:37:00 Physician Resident Progress Note
Chief Complaint: rigors
   24 Hour Events:
   [**3-11**] Events:
   - weaned off pressors to only small dose of levofed, then at 4 am this
   morning taken completely off pressors
   - weaned down off NRB to his home cpap for sleeping
   - cxr overnight while feeling SOB with O2 wean - showing new small B
   effusions
 PRESEP CATHETER - START [**2183-3-11**] 02:00 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Shortness
   Morphine
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   myalgia;
   Last dose of Antibiotics:
   Cefipime - [**2183-3-11**] 06:27 PM
   Vancomycin - [**2183-3-11**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-3-11**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-3-12**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 110 (71 - 114) bpm
   BP: 94/61(69) {86/56(63) - 116/77(85)} mmHg
   RR: 34 (16 - 35) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 23 (-18 - 23)mmHg
   Total In:
                                                                  8,417 mL
                                                                    715 mL
   PO:
   TF:
   IVF:
                                                                  1,417 mL
                                                                    715 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    500 mL
   Urine:
                                                                  1,700 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,717 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, except dull at the bases,
   crackles bilaterally at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   170 K/uL
   12.2 g/dL
   108 mg/dL
   1.3 mg/dL
   20 mEq/L
   3.4 mEq/L
   20 mg/dL
   111 mEq/L
   142 mEq/L
   34.7 %
   33.5 K/uL
        [image002.jpg]
                             [**2183-3-11**]  10:47 PM
                             [**2183-3-12**]  04:24 AM
   WBC
   33.5
   Hct
   34.7
   Plt
   170
   Cr
   1.3
   1.3
   Glucose
   128
   108
   Other labs: PT / PTT / INR:20.2/40.7/1.9, ALT / AST:231/211, Alk Phos /
   T Bili:49/0.7, Lactic Acid:2.5 mmol/L, Ca++:7.3 mg/dL, Mg++:1.1 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   This is a 51 y/o M hx HIV (last CD4 1080 [**2-7**]) now presents with fever,
   hypotension requiring pressors and GPC septic shock
   .
   # Septic Shock: His hypotension and positive blood cx (GPCs in
   pairs)are consistent with septic shock. Of note, he is asplenic and at
   high risk for encapsulated organisms such as Streptococcus pneumoniae,
   Haemophilus influenza, and Neisseria meningitidis. Given very high
   fever, there was some concern for flu. No clinical signs to suggest
   cardiogenic shock. Also, not adrenally insufficient as cortisol is 38.
   - still on pressure support, would continue for now for goals listed
   below.  In setting of fluid overload, would avoid large fluid boluses
   (f/u echo to assess [**Last Name (LF) **], [**First Name3 (LF) **] have septic cardiomyopathy).  If needs
   extra inatropic support, add vasopressin
   - goal CVP>[**11-10**], MAP>65, mixed venous >70
   - lactate staying around 2.5, continue to trend
   - goal UOP > 30 cc/hr
   - check LFTs given hypotension
   - f/u blood cx speciation and continue Vanc/Cefepime for broad coverage
   - urine/sputum cx, rapid viral screen in ED
   - ID consulted today
   - current mental status is good, but if altered, would have low
   threshold for LP
   - echo to look for vegetations, evaluate heart function
   .
   # Hypoxic respiratory distress: CXR with no clear infiltrate, and by ED
   report, he only became SOB and hypoxic after aggressive fluid
   [**Last Name (LF) 5681**], [**First Name3 (LF) **] I suspect volume overload. No echo in OMR. he does
   have OSA with central and obstructive.
   - now with B pleural effusions
   - weaned from NRB to home cpap overnight, now on facemask this morning
   - avoid aggressive fluid resuccitation if possible, although at this
   point, priority of treatment of septic physiology
   - no diuresis
   - echo as above
   .
   # Rash: he has a blanching erythematous macular rash over enitre back.
   Per pt, was initially full body in ED, but has since improved
   -          continue to monitor for drug rash
   .
   # Transaminitis
 likely in setting of shock liver, continue to trend
   .
   # Heme
 falling platelets, increasing INR
   - f/u DIC labs
   .
   # HIV: Currently not on HAART and CD4 count is 1080, so no need for
   ppx.
   - touch base with outpt
   .
   # OSA:
   - continue home CPAP
   .
   # FEN:
   - IVF as above
   - replete electrolytes
   - advance diet as tolerated
   .
   # Prophylaxis:
   - Subcutaneous heparin
   - PPI
   .
   # Access:
   - RIJ
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2183-3-11**] 02:00 PM
   18 Gauge - [**2183-3-11**] 02:00 PM
   16 Gauge - [**2183-3-11**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2183-03-14 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-13**] Events:
   - concern for HIT, sending PF4 and stopped hepSQ and placed on
   pneumoboots
   - switched cefepime to ceftriaxone per ID recs
   - white count trending down and platelts increasing after hep stopped
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash; Shortness
   Morphine
   Unknown;
   Lipitor (Oral) (Atorvastatin Calcium)
   myalgia;
   Last dose of Antibiotics:
   Cefipime - [**2183-3-12**] 06:00 PM
   Vancomycin - [**2183-3-12**] 08:00 PM
   Ceftriaxone - [**2183-3-13**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-3-14**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 82 (69 - 91) bpm
   BP: 94/63(70) {93/59(68) - 111/77(83)} mmHg
   RR: 17 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 96.9 kg (admission): 95 kg
   Height: 68 Inch
    CVP: 12 (4 - 21)mmHg
   Total In:
                                                                  3,023 mL
                                                                     73 mL
   PO:
                                                                    600 mL
   TF:
   IVF:
                                                                  2,423 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    670 mL
   Urine:
                                                                  1,530 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,493 mL
                                                                   -597 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, except dull at the bases,
   crackles bilaterally at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   113 K/uL
   11.2 g/dL
   97 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.5 mEq/L
   17 mg/dL
   108 mEq/L
   139 mEq/L
   30.8 %
   38.4 K/uL
                             [**2183-3-11**]  10:47 PM
                             [**2183-3-12**]  04:24 AM
                             [**2183-3-12**]  01:30 PM
                             [**2183-3-12**]  03:16 PM
                             [**2183-3-13**]  05:02 AM
                             [**2183-3-13**]  03:16 PM
                             [**2183-3-14**]  04:34 AM
   WBC
   33.5
   43.5
   43.9
   40.5
   38.4
   Hct
   34.7
   32.9
   31.9
   30.9
   30.8
   Plt
   170
   129
   126
   101
   113
   Cr
   1.3
   1.3
   1.1
   1.0
   0.9
   TCO2
   22
   Glucose
   128
   108
   119
   101
   97
   Other labs: PT / PTT / INR:13.4/33.3/1.1, ALT / AST:99/52, Alk Phos / T
   Bili:93/1.1, Differential-Neuts:85.3 %, Lymph:12.9 %, Mono:1.4 %,
   Eos:0.1 %, Fibrinogen:451 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.9
   g/dL, Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   This is a 51 y/o M hx HIV (last CD4 1080 [**2-7**]) now presents with fever,
   hypotension requiring pressors and GPC septic shock
   .
   # Septic Shock: pneumococcal septic shock per culture data.  Lactates
   starting to improve, WBCs still increasing
   - per ID and new sensitivities with MICs, recommend ceftriaxone 2 gm q
   24 hrs; stopping vanc/cefepime
   - weaned off pressor support this morning, maintaining appropriate MAPs
   - goal CVP>[**11-10**], MAP>65, mixed venous >70
   - lactate 1.6 this morning after 3.0 yesterday
   - goal UOP > 30 cc/hr
   - urine/sputum cx neg, rapid viral screen in ED neg
   - echo to look for vegetations, evaluate heart function
 had normal EF
   with some mild R sided hypokinesis; no signs of vegetation; would
   recommend TEE in a few days to evaluate for vegetation to guide length
   of treatment
   .
   # Hypoxic respiratory distress: CXR with no clear infiltrate, and by ED
   report, he only became SOB and hypoxic after aggressive fluid
   [**Last Name (LF) 5681**], [**First Name3 (LF) **] I suspect volume overload.
   - now with B pleural effusions
   - on bipap throughout most of day and night yesterday, appropriate
   oxygenation, will try to wean O2 as tolerated today
   - avoid aggressive fluid resuccitation if possible, although at this
   point, priority of treatment of septic physiology
   - no diuresis for now, will likely autodiures once shock can resolves
   .
   # Rash: he has a blanching erythematous macular rash over enitre back.
   Per pt, was initially full body in ED, but has since improved, continue
   to monitor
   .
   # Transaminitis
 likely in setting of shock liver, continue to trend
   - LFTs improving
   .
   # Heme
 falling platelets, increasing INR
   - no signs of DIC
   - changing PPI to H2 blocker for possible PPI thrombocytopenia
   .
   # HIV: Currently not on HAART and CD4 count is 1080, so no need for
   ppx.
   - emailed outpt doctor, he is out of town and covering doctor is aware
   - CD4 count 500
   .
   # OSA:
   - continue home CPAP
   .
   # FEN:
   - IVF as above
   - replete electrolytes
   - advance diet as tolerated
   .
   # Prophylaxis:
   - Subcutaneous heparin
   - H2 blocker
   .
   # Access:
   - RIJ, discussed possibly changing it in setting of infection, but will
   keep for another day and likely place PICC after survelience blood
   cultures start to become negative
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2183-3-11**] 02:00 PM
   18 Gauge - [**2183-3-11**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: